US04607030
(a) 2-Acetamidomethyl-4-(1,1-dimethylethyl)-phenol
43 g (0.2 mole) of 2-aminomethyl-4-(1,1-dimethylethyl)-phenol hydrochloride are suspended in 400 ml of 1,4-dioxane, and 40 ml of pyridine are added. 40 ml (0.55 mole) of acetyl chloride are added dropwise while stirring and cooling with ice. The mixture is then stirred for 2.5 hours at 90° and poured into ice water, and the precipitate which has crystallized out is filtered off with suction.

reactant | 2-aminomethyl-4-(1,1-dimethylethyl)-phenol hydrochloride | 0.2 mole, 43 g | Cl.NCC1=C(C=CC(=C1)C(C)(C)C)O
reactant | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 0.55 mole, 40 ml | C(C)(=O)Cl | C2H3ClO
solvent | 1,4-dioxane | 400 ml | O1CCOCC1 | C4H8O2
product | 2-Acetamidomethyl-4-(1,1-dimethylethyl)-phenol | C(C)(=O)NCC1=C(C=CC(=C1)C(C)(C)C)O | C13H19NO2
